US09388197B2
A.1.2.1. Methyl 2-amino-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate
A soln. of methyl 2-bromo-3-oxocyclohexanecarboxylate (1.00 g, 4.25 mmol) and thiourea (0.36 g, 4.68 mmol) in EtOH (16 mL) was stirred at 70° C. overnight. Subsequently, the mixture was quenched with aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. Purification by means of CC (0-1% MeOH/DCM) provided a yellow solid.

reactant | methyl 2-bromo-3-oxocyclohexanecarboxylate | 4.25 mmol, 1.00 g | BrC1C(CCCC1=O)C(=O)OC | C8H11BrO3
reactant | thiourea | 4.68 mmol, 0.36 g | NC(=S)N | CH4N2S
solvent | EtOH | 16 mL | CCO | C2H6O
product | Methyl 2-amino-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate | NC=1SC2=C(N1)CCCC2C(=O)OC | C9H12N2O2S
